US08466282B2
Tert-butyl (3S,5R)-3-{[(2-tert-butyl-4-hexylpyrimidin-5-yl)carbonyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
1-tert-Butyl 3-methyl(3R,5S)-5-{[(2-tert-butyl-4-hexylpyrimidin-5-yl)carbonyl](2-methylpropyl)amino}piperidine-1,3-dicarboxylate (219 mg) was dissolved in methanol (3 ml) and THF (2 ml), 1M aqueous sodium hydroxide solution (2 ml) was added and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the aqueous layer of the mixture was adjusted to pH 5-6 with saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue, morpholine (41 μl), 1H-benzotriazol-1-ol (30 mg) and triethylamine (140 μl) were dissolved in 1,2-dichloroethane (4 ml), WSC.HCl (115 mg) was added and the mixture was stirred at room temperature for 3 days. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous is magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (5:95-80:20) was concentrated under reduced pressure to give the object product (88 mg).

reactant | 1-tert-Butyl 3-methyl(3R,5S)-5-{[(2-tert-butyl-4-hexylpyrimidin-5-yl)carbonyl](2-methylpropyl)amino}piperidine-1,3-dicarboxylate | 219 mg | C(C)(C)(C)C1=NC=C(C(=N1)CCCCCC)C(=O)N([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C31H52N4O5
reactant | sodium hydroxide | 1M, 2 ml | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | Tert-butyl (3S,5R)-3-{[(2-tert-butyl-4-hexylpyrimidin-5-yl)carbonyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 88 mg | C(C)(C)(C)C1=NC=C(C(=N1)CCCCCC)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C34H57N5O5
